US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
To a solution of N-[(3-aminooxetan-3-yl)methyl]-2-chloroquinazolin-4-amine (200 mg, 0.756 mmol) in N,N-dimethylformamide (4 mL) was added 2,3,4,5-tetrahydro-1,4-benzothiazepine (125 mg, 0.756 mmol) and triethylamine (230 mg, 2.268 mmol). After being heated at 130° C. for 4 hours under microwave irradiation, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was dried with sodium sulfate, and concentrated in vacuo. The residue was purified by preparative HPLC to afford 42 mg of the desired product as a white solid (yield was 14%). MS obsd. (ESI+) [(M+H)+] 394, 1H NMR (400 MHz, CD3OD) δ ppm 7.75-7.73 (t, J=6.4, 1.2 Hz, 1 H), 7.56-7.53 (m, 1 H), 7.52-7.47 (m, 2 H), 7.43-7.41 (d, J=8.0 Hz, 1 H), 7.24-7.20 (m, 1 H), 7.15-7.08 (m, 2 H), 5.06 (s, 2 H), 4.69-4.67 (d, J=6.8 Hz, 2 H), 4.55-4.53 (d, J=6.4 Hz, 2 H), 4.42 (s, 2 H), 4.09 (s, 2 H), 2.97-2.95 (t, J=4.8, 4.4 Hz, 2 H).

reactant | N-[(3-aminooxetan-3-yl)methyl]-2-chloroquinazolin-4-amine | 0.756 mmol, 200 mg | NC1(COC1)CNC1=NC(=NC2=CC=CC=C12)Cl | C12H13ClN4O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | 0.756 mmol, 125 mg | S1CCNCC2=C1C=CC=C2 | C9H11NS
reactant | triethylamine | 2.268 mmol, 230 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-[(3-Aminooxetan-3-yl)methyl]-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | 42 mg, yield was 14% | NC1(COC1)CNC1=NC(=NC2=CC=CC=C12)N1CCSC2=C(C1)C=CC=C2 | C21H23N5OS
